US04419352
(a) 6-Acetyl-4-chloro-7-hydroxy-8-propylquinoline-2-carboxamide
Methyl 6-acetyl-4-chloro-7-hydroxy-8-propylquinoline-2-carboxylate (2 g) was treated with ammonia saturated methanol in an autoclave at 100° C. for 24 hours. Removal of solvent afforded a solid which was boiled with 2 N HCl (100 ml) for 10 minutes, then cooled, and the precipitate was collected and identified as the sub-title compound by NMR.

reactant | Methyl 6-acetyl-4-chloro-7-hydroxy-8-propylquinoline-2-carboxylate | 2 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
reactant | ammonia | N | H3N
solvent | HCl | 2 N, 100 ml | Cl | ClH
product | 6-Acetyl-4-chloro-7-hydroxy-8-propylquinoline-2-carboxamide | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)N)Cl | C15H15ClN2O3
